US05674482
A mixture of 4-benzyloxybenzyl chloride (4.99 g) and tri-n-butylphosphite is heated at 50° C. for about 4 hours while removing butyl chloride. The mixture is cooled to room temperature and the crude product purified by HPLC on silica, eluting with 25% ethyl acetate in hexane, to give dibutyl 4-benzyloxybenzylphosphonate.

reactant | 4-benzyloxybenzyl chloride | 4.99 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | tri-n-butylphosphite | C(CCC)OP(OCCCC)OCCCC | C12H27O3P
product | dibutyl 4-benzyloxybenzylphosphonate | C(C1=CC=CC=C1)OC1=CC=C(CP(OCCCC)(OCCCC)=O)C=C1 | C22H31O4P
